US08629157B2
Step 2: Synthesis of 4,4-dimethyl-3-oxo-5-(tetrahydro-pyran-2-yloxy)-pentanenitrile
A solution of 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester (7.67 g, 35.46 mmol) and acetonitrile (2.6 mL, 49.65 mmol) in toluene (20 mL) is added dropwise to the refluxing suspension of 60% sodium hydride in mineral oil (1.99 g, 49.65 mmol) in toluene (40 mL). After the addition, the reaction mixture is stirred at reflux for 3 hours. After this time, the reaction mixture is cooled to room temperature and the aqueous layer is neutralized to PH˜6-7 by adding 1N hydrochloric acid aqueous solution. The layers are combined and the aqueous layer is extracted with ethyl acetate. The organic layers are combined and washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to yield the title compound. It is used without purification.

reactant | 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester | 35.46 mmol, 7.67 g | COC(C(COC1OCCCC1)(C)C)=O | C11H20O4
reactant | acetonitrile | 49.65 mmol, 2.6 mL | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4-dimethyl-3-oxo-5-(tetrahydro-pyran-2-yloxy)-pentanenitrile | CC(C(CC#N)=O)(COC1OCCCC1)C | C12H19NO3
